US08217043B2
a) 4-Hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid ethyl ester
A mixture of N-aminopyrrole (1.77 g, 20.56 mmol) and 2-ethoxycarbonyl-malonic acid diethyl ester (14.4 g, 61.68 mmol) was subjected microwave heating at 170° C. for 30 min; then cooled, the reaction mixture was directly purified with silica gel column to give the desired product (372 mg) as brown solid. ESI (m/z): 223 (M+H)+.

reactant | N-aminopyrrole | 20.56 mmol, 1.77 g | NN1C=CC=C1 | C4H6N2
reactant | 2-ethoxycarbonyl-malonic acid diethyl ester | 61.68 mmol, 14.4 g | C(C)OC(C(C(=O)OCC)C(=O)OCC)=O | C10H16O6
product | 4-Hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid ethyl ester | 372 mg | C(C)OC(=O)C1=C(C=2N(NC1=O)C=CC2)O | C10H10N2O4
